US04459150
4-Cyano-5-diacetylamino-1-(2,3,4-trichlorophenyl)pyrazole (0.2 g) in ethanol (5 ml) containing saturated aqueous sodium bicarbonate solution (4 drops), was heated at reflux for 20 minutes. The reaction mixture was then evaporated to dryness under reduced pressure (20 mmHg) to give a fawn coloured powder which was crystallized from ethanol (2 ml), to give 5-acetamido-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole (0.09 g), m.p. 222°-224° C., in the form of a colourless crystalline solid.

reactant | 4-Cyano-5-diacetylamino-1-(2,3,4-trichlorophenyl)pyrazole | 0.2 g | C(#N)C=1C=NN(C1N(C(C)=O)C(C)=O)C1=C(C(=C(C=C1)Cl)Cl)Cl | C14H9Cl3N4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | sodium bicarbonate | 4 drops | C([O-])(O)=O.[Na+]
product | 5-acetamido-4-cyano-1-(2,3,4-trichlorophenyl)pyrazole | 0.09 g | C(C)(=O)NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C12H7Cl3N4O
